US03959375
6,7-Diaza-bicyclo[3.2.1]octane-2,4-diol (0.20 g) was dissolved in 20 ml. of a mixture of water and ethanol (1:1 by volume) to which was then added 0.2 g of Ranney nickel. The admixture was shaken for 15 hours under an atmosphere of hydrogen at a pressure of 3.4 kg/cm2 for the hydrogenation. The reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure, giving a crystalline residue. This solid was dispersed in ethanol, removed by filtraton and then dried to afford 0.18 g of 2,5-dideoxystreptamine. Yield 91%. mp. 198°C. This substance was taken up into water, and to the resulting aqueous solution was added a slight excess of 1N hydrochloric acid. The mixture was concentrated by evaporation of the solvent, giving colorless platelets. Recrystallization of this product from water-ethanol gave 2,5-dideoxystreptamine dihydrochloride as colorless platelets of mp. 290°-295°C.

reactant | 6,7-Diaza-bicyclo[3.2.1]octane-2,4-diol | 0.20 g | C12C(CC(C(NN1)C2)O)O | C6H12N2O2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | nickel | [Ni] | Ni
product | 2,5-dideoxystreptamine | 0.18 g, Yield 91% | C1[C@H]([C@@H](C[C@@H]([C@H]1N)O)O)N | C6H14N2O2
